US05767131
4-Hydroxypiperidine (10.0 g, 98.9 mmol, 1.00 equiv) and AlCl3 (105.5 g, 791.2 mmol, 8.0 equiv) were stirred in refluxing benzene (350 mL) under a CaSO4 drying tube for 85 hours. The mixture was cooled to room temperature and poured carefully into ice (500 g) and water (50 mL) with stirring. With ice water cooling, the pH was adjusted to 10-11 by addition of solid NaOH. The resulting mixture was extracted with EtOAc (3×250 mL). The combined organic solutions were washed with brine, dried over MgSO4, and concentrated to give 6.5 g of 4-phenylpiperidine (yellow solid, 40%), which was characterized spectroscopically.

reactant | 4-Hydroxypiperidine | 98.9 mmol, 10.0 g, 1.00 equiv | OC1CCNCC1 | C5H11NO
reactant | AlCl3 | 791.2 mmol, 105.5 g, 8.0 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzene | 350 mL | C1=CC=CC=C1 | C6H6
reactant | NaOH | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 4-phenylpiperidine | 6.5 g, 40% | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
